US07557213B2
Preparation of 1-(3-Chloro-benzyl)-3-(6-dimethylamino-pyridine-3-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Example 141, from 151 mg (0.37 mmol) of 1-(3-chloro-benzyl)-3-(6-chloro-pyridine-3-carbonyl)-1H-quinolin-4-one and 2 mL 2 M dimethylamine solution. Yield: 127 mg of a yellow powder. LC-MSD, m/z for C24H20ClN3O2 [M+H]+=418.1, 420.1; HPLC retention time: 1.6 min.

reactant | 1-(3-chloro-benzyl)-3-(6-chloro-pyridine-3-carbonyl)-1H-quinolin-4-one | 0.37 mmol, 151 mg | ClC=1C=C(CN2C=C(C(C3=CC=CC=C23)=O)C(=O)C=2C=NC(=CC2)Cl)C=CC1 | C22H14Cl2N2O2
reactant | dimethylamine | 2 M, 2 mL | CNC | C2H7N
product | 1-(3-Chloro-benzyl)-3-(6-dimethylamino-pyridine-3-carbonyl)-1H-quinolin-4-one | ClC=1C=C(CN2C=C(C(C3=CC=CC=C23)=O)C(=O)C=2C=NC(=CC2)N(C)C)C=CC1 | C24H20ClN3O2
